US04946754
A mixture of 5.3 grams of 4-aminobiphenyl, 25.0 grams of m-chloroiodobenzene and 16.5 grams of potassium carbonate in 150 milliliters of dimethyl sulfoxide was mechanically stirred and heated to 110° C. in a round-bottomed flask fitted with a reflux condenser under a nitrogen atmosphere. Subsequently, 9.5 grams of copper bronze powder was added, and the temperature of the reaction mixture was raised to 170° C. After 48 hours, the reaction mixture was filtered while still hot, and the filtrate was evaporated under reduced pressure to provide a viscous oil. Purification by column chromatography on neutral alumina using a mixture of methylene chloride and hexane (1:10) as the eluent afforded 7.9 grams of analytically pure bis(m-chlorophenyl)-4-biphenylylamine.

reactant | 4-aminobiphenyl | 5.3 grams | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | m-chloroiodobenzene | 25.0 grams | ClC=1C=C(C=CC1)I | C6H4ClI
reactant | potassium carbonate | 16.5 grams | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 150 milliliters | CS(=O)C | C2H6OS
catalyst | copper bronze | 9.5 grams | [Cu] | Cu
product | bis(m-chlorophenyl)-4-biphenylylamine | ClC=1C=C(C=CC1)N(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC(=CC=C1)Cl | C24H17Cl2N
